US07598257B2
Step 1: (2E)-3-Cyclopentylacrylic acid
To a solution of malonic acid (1.06 g, 10.2 mol) in pyridine (1.25 mL) was added piperidine (0.15 mL) and cyclopentanecarbaldehyde (1.00 g, 10.2 mmol). The mixture was heated to 40° C. for 2 hours, followed by stirring at room temperature for 16 hours. The mixture was then cooled in an ice bath and 2N HCl was added to acidify. The product was extracted with ether. The ether extract was washed with aq. HCl and brine, dried over sodium sulfate, filtered, and the solvent was removed in vacuo to afford the product (1.30 g, 77%), which was used without further purification.

reactant | malonic acid | 10.2 mol, 1.06 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.15 mL | N1CCCCC1 | C5H11N
reactant | cyclopentanecarbaldehyde | 10.2 mmol, 1.00 g | C1(CCCC1)C=O | C6H10O
reactant | HCl | 2N | Cl | ClH
solvent | pyridine | 1.25 mL | N1=CC=CC=C1 | C5H5N
product | (2E)-3-Cyclopentylacrylic acid | 1.30 g, 77% | C1(CCCC1)/C=C/C(=O)O | C8H12O2
